* Ideal crossbar read-energy validation
* rows=128 cols=127 pulse_ns=10
* Each row is collapsed to an equivalent conductance because columns are ideal virtual ground.
Vrow0 row0 0 PULSE(0 0.0553740821899 0 0.001n 0.001n 10n 30n)
Vrow1 row1 0 PULSE(0 -0.000248579951875 0 0.001n 0.001n 10n 30n)
Vrow2 row2 0 PULSE(0 0.0625975707383 0 0.001n 0.001n 10n 30n)
Vrow3 row3 0 PULSE(0 0.00326825904293 0 0.001n 0.001n 10n 30n)
Vrow4 row4 0 PULSE(0 -0.020783751004 0 0.001n 0.001n 10n 30n)
Vrow5 row5 0 PULSE(0 0.0330128475089 0 0.001n 0.001n 10n 30n)
Vrow6 row6 0 PULSE(0 0.0226053438582 0 0.001n 0.001n 10n 30n)
Vrow7 row7 0 PULSE(0 0.0143646866748 0 0.001n 0.001n 10n 30n)
Vrow8 row8 0 PULSE(0 -0.0213003064815 0 0.001n 0.001n 10n 30n)
Vrow9 row9 0 PULSE(0 0.0338495677827 0 0.001n 0.001n 10n 30n)
Vrow10 row10 0 PULSE(0 0.0200016684736 0 0.001n 0.001n 10n 30n)
Vrow11 row11 0 PULSE(0 -0.040820754391 0 0.001n 0.001n 10n 30n)
Vrow12 row12 0 PULSE(0 -0.0831877847831 0 0.001n 0.001n 10n 30n)
Vrow13 row13 0 PULSE(0 -0.017221602773 0 0.001n 0.001n 10n 30n)
Vrow14 row14 0 PULSE(0 -0.00467535461704 0 0.001n 0.001n 10n 30n)
Vrow15 row15 0 PULSE(0 -0.0157997460599 0 0.001n 0.001n 10n 30n)
Vrow16 row16 0 PULSE(0 0.0797212268895 0 0.001n 0.001n 10n 30n)
Vrow17 row17 0 PULSE(0 0.0454497570634 0 0.001n 0.001n 10n 30n)
Vrow18 row18 0 PULSE(0 -0.0243091804724 0 0.001n 0.001n 10n 30n)
Vrow19 row19 0 PULSE(0 -0.055347961096 0 0.001n 0.001n 10n 30n)
Vrow20 row20 0 PULSE(0 -0.0543739592143 0 0.001n 0.001n 10n 30n)
Vrow21 row21 0 PULSE(0 -0.0193319844416 0 0.001n 0.001n 10n 30n)
Vrow22 row22 0 PULSE(0 0.0354858501017 0 0.001n 0.001n 10n 30n)
Vrow23 row23 0 PULSE(0 0.1 0 0.001n 0.001n 10n 30n)
Vrow24 row24 0 PULSE(0 -0.0114991804245 0 0.001n 0.001n 10n 30n)
Vrow25 row25 0 PULSE(0 0.0213170491901 0 0.001n 0.001n 10n 30n)
Vrow26 row26 0 PULSE(0 -0.0420346933307 0 0.001n 0.001n 10n 30n)
Vrow27 row27 0 PULSE(0 -0.0198530710911 0 0.001n 0.001n 10n 30n)
Vrow28 row28 0 PULSE(0 0.0448512720868 0 0.001n 0.001n 10n 30n)
Vrow29 row29 0 PULSE(0 0.00412892482152 0 0.001n 0.001n 10n 30n)
Vrow30 row30 0 PULSE(0 0.0464531077743 0 0.001n 0.001n 10n 30n)
Vrow31 row31 0 PULSE(0 0.0118629561149 0 0.001n 0.001n 10n 30n)
Vrow32 row32 0 PULSE(0 0.0342646627828 0 0.001n 0.001n 10n 30n)
Vrow33 row33 0 PULSE(0 -0.0387445799852 0 0.001n 0.001n 10n 30n)
Vrow34 row34 0 PULSE(0 0.0402202946238 0 0.001n 0.001n 10n 30n)
Vrow35 row35 0 PULSE(0 -0.000998664206569 0 0.001n 0.001n 10n 30n)
Vrow36 row36 0 PULSE(0 0.0471772649838 0 0.001n 0.001n 10n 30n)
Vrow37 row37 0 PULSE(0 0.0139963199702 0 0.001n 0.001n 10n 30n)
Vrow38 row38 0 PULSE(0 0.0136484753794 0 0.001n 0.001n 10n 30n)
Vrow39 row39 0 PULSE(0 0.00384901999333 0 0.001n 0.001n 10n 30n)
Vrow40 row40 0 PULSE(0 -0.0589905296822 0 0.001n 0.001n 10n 30n)
Vrow41 row41 0 PULSE(0 0.00234961698413 0 0.001n 0.001n 10n 30n)
Vrow42 row42 0 PULSE(0 0.0161849573916 0 0.001n 0.001n 10n 30n)
Vrow43 row43 0 PULSE(0 -0.0156093274372 0 0.001n 0.001n 10n 30n)
Vrow44 row44 0 PULSE(0 0.0142485592631 0 0.001n 0.001n 10n 30n)
Vrow45 row45 0 PULSE(0 -0.0415876239275 0 0.001n 0.001n 10n 30n)
Vrow46 row46 0 PULSE(0 -0.0278028487252 0 0.001n 0.001n 10n 30n)
Vrow47 row47 0 PULSE(0 0.0563090333355 0 0.001n 0.001n 10n 30n)
Vrow48 row48 0 PULSE(0 -0.0267313845691 0 0.001n 0.001n 10n 30n)
Vrow49 row49 0 PULSE(0 0.0755645470032 0 0.001n 0.001n 10n 30n)
Vrow50 row50 0 PULSE(0 0.00493130646012 0 0.001n 0.001n 10n 30n)
Vrow51 row51 0 PULSE(0 0.0121934951071 0 0.001n 0.001n 10n 30n)
Vrow52 row52 0 PULSE(0 -0.0288673169612 0 0.001n 0.001n 10n 30n)
Vrow53 row53 0 PULSE(0 -0.0020990694005 0 0.001n 0.001n 10n 30n)
Vrow54 row54 0 PULSE(0 0.0308757930767 0 0.001n 0.001n 10n 30n)
Vrow55 row55 0 PULSE(0 -0.0188639441086 0 0.001n 0.001n 10n 30n)
Vrow56 row56 0 PULSE(0 -0.00720667617982 0 0.001n 0.001n 10n 30n)
Vrow57 row57 0 PULSE(0 0.00776454844692 0 0.001n 0.001n 10n 30n)
Vrow58 row58 0 PULSE(0 -0.0216116595228 0 0.001n 0.001n 10n 30n)
Vrow59 row59 0 PULSE(0 -0.000523223376176 0 0.001n 0.001n 10n 30n)
Vrow60 row60 0 PULSE(0 -0.0113616772136 0 0.001n 0.001n 10n 30n)
Vrow61 row61 0 PULSE(0 0.00136385261562 0 0.001n 0.001n 10n 30n)
Vrow62 row62 0 PULSE(0 -0.00994712685172 0 0.001n 0.001n 10n 30n)
Vrow63 row63 0 PULSE(0 0.0309353303952 0 0.001n 0.001n 10n 30n)
Vrow64 row64 0 PULSE(0 -0.0190766417728 0 0.001n 0.001n 10n 30n)
Vrow65 row65 0 PULSE(0 -0.0203386807022 0 0.001n 0.001n 10n 30n)
Vrow66 row66 0 PULSE(0 -0.0359604057477 0 0.001n 0.001n 10n 30n)
Vrow67 row67 0 PULSE(0 -0.0652283957534 0 0.001n 0.001n 10n 30n)
Vrow68 row68 0 PULSE(0 -0.0150321284966 0 0.001n 0.001n 10n 30n)
Vrow69 row69 0 PULSE(0 -0.0268979626444 0 0.001n 0.001n 10n 30n)
Vrow70 row70 0 PULSE(0 0.0235010778317 0 0.001n 0.001n 10n 30n)
Vrow71 row71 0 PULSE(0 -0.0191392927527 0 0.001n 0.001n 10n 30n)
Vrow72 row72 0 PULSE(0 0.0120486350532 0 0.001n 0.001n 10n 30n)
Vrow73 row73 0 PULSE(0 0.0284462639281 0 0.001n 0.001n 10n 30n)
Vrow74 row74 0 PULSE(0 0.0161336259265 0 0.001n 0.001n 10n 30n)
Vrow75 row75 0 PULSE(0 -0.00288144716769 0 0.001n 0.001n 10n 30n)
Vrow76 row76 0 PULSE(0 0.0423474283514 0 0.001n 0.001n 10n 30n)
Vrow77 row77 0 PULSE(0 0.00538068072079 0 0.001n 0.001n 10n 30n)
Vrow78 row78 0 PULSE(0 0.00115432471474 0 0.001n 0.001n 10n 30n)
Vrow79 row79 0 PULSE(0 0.0269991239111 0 0.001n 0.001n 10n 30n)
Vrow80 row80 0 PULSE(0 -0.005985925054 0 0.001n 0.001n 10n 30n)
Vrow81 row81 0 PULSE(0 -0.0281661671843 0 0.001n 0.001n 10n 30n)
Vrow82 row82 0 PULSE(0 0.0326580958261 0 0.001n 0.001n 10n 30n)
Vrow83 row83 0 PULSE(0 0.0292347626578 0 0.001n 0.001n 10n 30n)
Vrow84 row84 0 PULSE(0 -0.00681721652367 0 0.001n 0.001n 10n 30n)
Vrow85 row85 0 PULSE(0 0.00768498177732 0 0.001n 0.001n 10n 30n)
Vrow86 row86 0 PULSE(0 -0.0238090516622 0 0.001n 0.001n 10n 30n)
Vrow87 row87 0 PULSE(0 0.020421999661 0 0.001n 0.001n 10n 30n)
Vrow88 row88 0 PULSE(0 -0.0365938347935 0 0.001n 0.001n 10n 30n)
Vrow89 row89 0 PULSE(0 0.00243609799218 0 0.001n 0.001n 10n 30n)
Vrow90 row90 0 PULSE(0 -0.018581418148 0 0.001n 0.001n 10n 30n)
Vrow91 row91 0 PULSE(0 -0.0322210088397 0 0.001n 0.001n 10n 30n)
Vrow92 row92 0 PULSE(0 -0.0196184506332 0 0.001n 0.001n 10n 30n)
Vrow93 row93 0 PULSE(0 -0.0303138024548 0 0.001n 0.001n 10n 30n)
Vrow94 row94 0 PULSE(0 -0.031912941506 0 0.001n 0.001n 10n 30n)
Vrow95 row95 0 PULSE(0 0.045004868158 0 0.001n 0.001n 10n 30n)
Vrow96 row96 0 PULSE(0 0.0238618361693 0 0.001n 0.001n 10n 30n)
Vrow97 row97 0 PULSE(0 0.00824597658856 0 0.001n 0.001n 10n 30n)
Vrow98 row98 0 PULSE(0 -0.00796246603772 0 0.001n 0.001n 10n 30n)
Vrow99 row99 0 PULSE(0 0.0424388521799 0 0.001n 0.001n 10n 30n)
Vrow100 row100 0 PULSE(0 -0.0319329100799 0 0.001n 0.001n 10n 30n)
Vrow101 row101 0 PULSE(0 0.0236150303557 0 0.001n 0.001n 10n 30n)
Vrow102 row102 0 PULSE(0 -0.00402018277136 0 0.001n 0.001n 10n 30n)
Vrow103 row103 0 PULSE(0 -0.0222518488603 0 0.001n 0.001n 10n 30n)
Vrow104 row104 0 PULSE(0 -0.0142214311382 0 0.001n 0.001n 10n 30n)
Vrow105 row105 0 PULSE(0 -0.00844435234573 0 0.001n 0.001n 10n 30n)
Vrow106 row106 0 PULSE(0 -0.00315055259354 0 0.001n 0.001n 10n 30n)
Vrow107 row107 0 PULSE(0 0.025970568439 0 0.001n 0.001n 10n 30n)
Vrow108 row108 0 PULSE(0 -0.0083671905821 0 0.001n 0.001n 10n 30n)
Vrow109 row109 0 PULSE(0 -0.0596826900478 0 0.001n 0.001n 10n 30n)
Vrow110 row110 0 PULSE(0 0.0417867561267 0 0.001n 0.001n 10n 30n)
Vrow111 row111 0 PULSE(0 -0.0185773881539 0 0.001n 0.001n 10n 30n)
Vrow112 row112 0 PULSE(0 0.00557554916757 0 0.001n 0.001n 10n 30n)
Vrow113 row113 0 PULSE(0 0.00276965059708 0 0.001n 0.001n 10n 30n)
Vrow114 row114 0 PULSE(0 -0.0395931714434 0 0.001n 0.001n 10n 30n)
Vrow115 row115 0 PULSE(0 0.0309996887461 0 0.001n 0.001n 10n 30n)
Vrow116 row116 0 PULSE(0 0.0150269605669 0 0.001n 0.001n 10n 30n)
Vrow117 row117 0 PULSE(0 0.0192620626419 0 0.001n 0.001n 10n 30n)
Vrow118 row118 0 PULSE(0 0.00809187185913 0 0.001n 0.001n 10n 30n)
Vrow119 row119 0 PULSE(0 -0.000754924367577 0 0.001n 0.001n 10n 30n)
Vrow120 row120 0 PULSE(0 -0.00477781137249 0 0.001n 0.001n 10n 30n)
Vrow121 row121 0 PULSE(0 -0.00314303165215 0 0.001n 0.001n 10n 30n)
Vrow122 row122 0 PULSE(0 0.0292543908796 0 0.001n 0.001n 10n 30n)
Vrow123 row123 0 PULSE(0 -0.0530222674097 0 0.001n 0.001n 10n 30n)
Vrow124 row124 0 PULSE(0 -0.000639194929486 0 0.001n 0.001n 10n 30n)
Vrow125 row125 0 PULSE(0 0.0283353072512 0 0.001n 0.001n 10n 30n)
Vrow126 row126 0 PULSE(0 -0.0171697046775 0 0.001n 0.001n 10n 30n)
Vrow127 row127 0 PULSE(0 0.0156574489326 0 0.001n 0.001n 10n 30n)
Reqrow0 row0 0 135.569008246
Reqrow1 row1 0 384.946260762
Reqrow2 row2 0 156.819639599
Reqrow3 row3 0 47.9131971122
Reqrow4 row4 0 386.4227055
Reqrow5 row5 0 308.888301711
Reqrow6 row6 0 389.351713531
Reqrow7 row7 0 189.081877128
Reqrow8 row8 0 156.145779276
Reqrow9 row9 0 48.1063100916
Reqrow10 row10 0 67.5359281753
Reqrow11 row11 0 104.356032557
Reqrow12 row12 0 329.531730053
Reqrow13 row13 0 41.8163709197
Reqrow14 row14 0 223.396312036
Reqrow15 row15 0 347.761071703
Reqrow16 row16 0 57.9002778244
Reqrow17 row17 0 40.5787938011
Reqrow18 row18 0 238.124309343
Reqrow19 row19 0 371.765087847
Reqrow20 row20 0 310.96146404
Reqrow21 row21 0 384.517425575
Reqrow22 row22 0 46.4421675494
Reqrow23 row23 0 60.5611420273
Reqrow24 row24 0 176.07308129
Reqrow25 row25 0 388.372124793
Reqrow26 row26 0 284.020364411
Reqrow27 row27 0 64.888675161
Reqrow28 row28 0 283.99902803
Reqrow29 row29 0 333.128308952
Reqrow30 row30 0 174.149633587
Reqrow31 row31 0 357.270232683
Reqrow32 row32 0 245.58234518
Reqrow33 row33 0 113.923872994
Reqrow34 row34 0 40.0585029065
Reqrow35 row35 0 120.47963005
Reqrow36 row36 0 48.5357492053
Reqrow37 row37 0 32.8240852894
Reqrow38 row38 0 152.294963798
Reqrow39 row39 0 31.9598998185
Reqrow40 row40 0 55.1122058389
Reqrow41 row41 0 265.299863789
Reqrow42 row42 0 39.1388508924
Reqrow43 row43 0 358.327899817
Reqrow44 row44 0 156.626527314
Reqrow45 row45 0 120.625784854
Reqrow46 row46 0 209.912729729
Reqrow47 row47 0 308.977826291
Reqrow48 row48 0 344.693949218
Reqrow49 row49 0 93.5099712805
Reqrow50 row50 0 278.867014927
Reqrow51 row51 0 330.619118797
Reqrow52 row52 0 251.785162656
Reqrow53 row53 0 335.613116464
Reqrow54 row54 0 47.4794191079
Reqrow55 row55 0 242.019959076
Reqrow56 row56 0 48.901762773
Reqrow57 row57 0 90.1540907881
Reqrow58 row58 0 384.24315249
Reqrow59 row59 0 55.3414466812
Reqrow60 row60 0 148.878747193
Reqrow61 row61 0 271.828905371
Reqrow62 row62 0 76.9347564701
Reqrow63 row63 0 300.461178423
Reqrow64 row64 0 296.394366269
Reqrow65 row65 0 66.7507238813
Reqrow66 row66 0 73.9491751799
Reqrow67 row67 0 27.5462558153
Reqrow68 row68 0 45.8246707157
Reqrow69 row69 0 154.313782883
Reqrow70 row70 0 88.7423392089
Reqrow71 row71 0 138.243686172
Reqrow72 row72 0 265.773380873
Reqrow73 row73 0 141.468816189
Reqrow74 row74 0 70.9078279237
Reqrow75 row75 0 76.2851106268
Reqrow76 row76 0 51.2626304681
Reqrow77 row77 0 40.6867009166
Reqrow78 row78 0 117.650829459
Reqrow79 row79 0 36.5364072578
Reqrow80 row80 0 340.610512037
Reqrow81 row81 0 318.598752055
Reqrow82 row82 0 110.349079613
Reqrow83 row83 0 365.843771538
Reqrow84 row84 0 69.0029243589
Reqrow85 row85 0 29.9796493322
Reqrow86 row86 0 372.610064354
Reqrow87 row87 0 107.686981642
Reqrow88 row88 0 367.038061118
Reqrow89 row89 0 187.792682724
Reqrow90 row90 0 158.083799979
Reqrow91 row91 0 66.3737916487
Reqrow92 row92 0 332.554975607
Reqrow93 row93 0 88.8122631767
Reqrow94 row94 0 162.021990116
Reqrow95 row95 0 309.374252293
Reqrow96 row96 0 374.58306763
Reqrow97 row97 0 53.5853328781
Reqrow98 row98 0 386.781103966
Reqrow99 row99 0 261.887377003
Reqrow100 row100 0 56.0404388225
Reqrow101 row101 0 330.676893472
Reqrow102 row102 0 83.6616796117
Reqrow103 row103 0 136.542335147
Reqrow104 row104 0 240.435096408
Reqrow105 row105 0 375.790307663
Reqrow106 row106 0 86.1602547743
Reqrow107 row107 0 109.151059408
Reqrow108 row108 0 181.341324162
Reqrow109 row109 0 227.052270293
Reqrow110 row110 0 258.275725271
Reqrow111 row111 0 176.282757085
Reqrow112 row112 0 223.599976088
Reqrow113 row113 0 60.0104765373
Reqrow114 row114 0 371.451511137
Reqrow115 row115 0 393.955306953
Reqrow116 row116 0 193.686175744
Reqrow117 row117 0 307.867757871
Reqrow118 row118 0 78.4504949185
Reqrow119 row119 0 216.766481877
Reqrow120 row120 0 227.756619861
Reqrow121 row121 0 61.4362186023
Reqrow122 row122 0 83.5993134946
Reqrow123 row123 0 160.057203441
Reqrow124 row124 0 306.150551581
Reqrow125 row125 0 87.5415787316
Reqrow126 row126 0 121.993017664
Reqrow127 row127 0 115.059571504
Bpwr pwr 0 v = (v(row0)*v(row0)/135.569008246) + (v(row1)*v(row1)/384.946260762) + (v(row2)*v(row2)/156.819639599) + (v(row3)*v(row3)/47.9131971122) + (v(row4)*v(row4)/386.4227055) + (v(row5)*v(row5)/308.888301711) + (v(row6)*v(row6)/389.351713531) + (v(row7)*v(row7)/189.081877128) + (v(row8)*v(row8)/156.145779276) + (v(row9)*v(row9)/48.1063100916) + (v(row10)*v(row10)/67.5359281753) + (v(row11)*v(row11)/104.356032557) + (v(row12)*v(row12)/329.531730053) + (v(row13)*v(row13)/41.8163709197) + (v(row14)*v(row14)/223.396312036) + (v(row15)*v(row15)/347.761071703) + (v(row16)*v(row16)/57.9002778244) + (v(row17)*v(row17)/40.5787938011) + (v(row18)*v(row18)/238.124309343) + (v(row19)*v(row19)/371.765087847) + (v(row20)*v(row20)/310.96146404) + (v(row21)*v(row21)/384.517425575) + (v(row22)*v(row22)/46.4421675494) + (v(row23)*v(row23)/60.5611420273) + (v(row24)*v(row24)/176.07308129) + (v(row25)*v(row25)/388.372124793) + (v(row26)*v(row26)/284.020364411) + (v(row27)*v(row27)/64.888675161) + (v(row28)*v(row28)/283.99902803) + (v(row29)*v(row29)/333.128308952) + (v(row30)*v(row30)/174.149633587) + (v(row31)*v(row31)/357.270232683) + (v(row32)*v(row32)/245.58234518) + (v(row33)*v(row33)/113.923872994) + (v(row34)*v(row34)/40.0585029065) + (v(row35)*v(row35)/120.47963005) + (v(row36)*v(row36)/48.5357492053) + (v(row37)*v(row37)/32.8240852894) + (v(row38)*v(row38)/152.294963798) + (v(row39)*v(row39)/31.9598998185) + (v(row40)*v(row40)/55.1122058389) + (v(row41)*v(row41)/265.299863789) + (v(row42)*v(row42)/39.1388508924) + (v(row43)*v(row43)/358.327899817) + (v(row44)*v(row44)/156.626527314) + (v(row45)*v(row45)/120.625784854) + (v(row46)*v(row46)/209.912729729) + (v(row47)*v(row47)/308.977826291) + (v(row48)*v(row48)/344.693949218) + (v(row49)*v(row49)/93.5099712805) + (v(row50)*v(row50)/278.867014927) + (v(row51)*v(row51)/330.619118797) + (v(row52)*v(row52)/251.785162656) + (v(row53)*v(row53)/335.613116464) + (v(row54)*v(row54)/47.4794191079) + (v(row55)*v(row55)/242.019959076) + (v(row56)*v(row56)/48.901762773) + (v(row57)*v(row57)/90.1540907881) + (v(row58)*v(row58)/384.24315249) + (v(row59)*v(row59)/55.3414466812) + (v(row60)*v(row60)/148.878747193) + (v(row61)*v(row61)/271.828905371) + (v(row62)*v(row62)/76.9347564701) + (v(row63)*v(row63)/300.461178423) + (v(row64)*v(row64)/296.394366269) + (v(row65)*v(row65)/66.7507238813) + (v(row66)*v(row66)/73.9491751799) + (v(row67)*v(row67)/27.5462558153) + (v(row68)*v(row68)/45.8246707157) + (v(row69)*v(row69)/154.313782883) + (v(row70)*v(row70)/88.7423392089) + (v(row71)*v(row71)/138.243686172) + (v(row72)*v(row72)/265.773380873) + (v(row73)*v(row73)/141.468816189) + (v(row74)*v(row74)/70.9078279237) + (v(row75)*v(row75)/76.2851106268) + (v(row76)*v(row76)/51.2626304681) + (v(row77)*v(row77)/40.6867009166) + (v(row78)*v(row78)/117.650829459) + (v(row79)*v(row79)/36.5364072578) + (v(row80)*v(row80)/340.610512037) + (v(row81)*v(row81)/318.598752055) + (v(row82)*v(row82)/110.349079613) + (v(row83)*v(row83)/365.843771538) + (v(row84)*v(row84)/69.0029243589) + (v(row85)*v(row85)/29.9796493322) + (v(row86)*v(row86)/372.610064354) + (v(row87)*v(row87)/107.686981642) + (v(row88)*v(row88)/367.038061118) + (v(row89)*v(row89)/187.792682724) + (v(row90)*v(row90)/158.083799979) + (v(row91)*v(row91)/66.3737916487) + (v(row92)*v(row92)/332.554975607) + (v(row93)*v(row93)/88.8122631767) + (v(row94)*v(row94)/162.021990116) + (v(row95)*v(row95)/309.374252293) + (v(row96)*v(row96)/374.58306763) + (v(row97)*v(row97)/53.5853328781) + (v(row98)*v(row98)/386.781103966) + (v(row99)*v(row99)/261.887377003) + (v(row100)*v(row100)/56.0404388225) + (v(row101)*v(row101)/330.676893472) + (v(row102)*v(row102)/83.6616796117) + (v(row103)*v(row103)/136.542335147) + (v(row104)*v(row104)/240.435096408) + (v(row105)*v(row105)/375.790307663) + (v(row106)*v(row106)/86.1602547743) + (v(row107)*v(row107)/109.151059408) + (v(row108)*v(row108)/181.341324162) + (v(row109)*v(row109)/227.052270293) + (v(row110)*v(row110)/258.275725271) + (v(row111)*v(row111)/176.282757085) + (v(row112)*v(row112)/223.599976088) + (v(row113)*v(row113)/60.0104765373) + (v(row114)*v(row114)/371.451511137) + (v(row115)*v(row115)/393.955306953) + (v(row116)*v(row116)/193.686175744) + (v(row117)*v(row117)/307.867757871) + (v(row118)*v(row118)/78.4504949185) + (v(row119)*v(row119)/216.766481877) + (v(row120)*v(row120)/227.756619861) + (v(row121)*v(row121)/61.4362186023) + (v(row122)*v(row122)/83.5993134946) + (v(row123)*v(row123)/160.057203441) + (v(row124)*v(row124)/306.150551581) + (v(row125)*v(row125)/87.5415787316) + (v(row126)*v(row126)/121.993017664) + (v(row127)*v(row127)/115.059571504)
.control
set filetype=ascii
tran 0.05n 10.002n
meas tran energy INTEG v(pwr) FROM=0n TO=10.002n
wrdata experiments/spice/results/cmm_crosssim_read_energy/spice_validation/median_output_proj_r35c0.dat v(pwr)
quit
.endc
.end
